US09328099B2
1-[1-Acetyl-3-(cyanomethyl)azetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
To a suspension of 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate (Intermediate #38-2) (50 mg, 0.17 mmol) in DCM (2 mL) was added pyridine (0.050 mL, 0.62 mmol), followed by acetic anhydride (0.030 mL, 0.32 mmol). The reaction mixture was allowed to stir for 30 minutes before the solvent was removed in vacuo. Saturated aqueous NaHCO3 solution was added and the mixture was extracted with EtOAc (3×). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 50-100% EtOAc/hexanes followed by 10% MeOH/EtOAc) to afford the title compound, Example #32.

reactant | 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate | 0.17 mmol, 50 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(C[NH2+]C1)CC#N)NC1=CC=CC=C1
reactant | pyridine | 0.62 mmol, 0.050 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.32 mmol, 0.030 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-Acetyl-3-(cyanomethyl)azetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C(C)(=O)N1CC(C1)(CC#N)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C17H18N6O2
